US08076345B2
C) (R)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methanamine
(R)—N—((R)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methyl)-2-methylpropane-2-sulfinamide (0.245 g, 0.000765 mol), ethanol (2.7 g, 0.059 mol), and 4.0 M of hydrogen chloride in dioxane (2.7 mL, 0.011 mol) were combined and stirred overnight. Reaction was concentrated to down to oil and then redissolved and washed with ethanol for 3 times, and concentrated. The residue was dried on the high vacuum overnight to obtain the title compound.

reactant | (R)—N—((R)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methyl)-2-methylpropane-2-sulfinamide | 0.000765 mol, 0.245 g | C1(CC1)[C@@H](N[S@](=O)C(C)(C)C)C=1C=NC(=CC1)C(F)(F)F | C14H19F3N2OS
reactant | ethanol | 0.059 mol, 2.7 g | C(C)O | C2H6O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 0.011 mol, 2.7 mL | O1CCOCC1 | C4H8O2
product | (R)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methanamine | C1(CC1)[C@@H](N)C=1C=NC(=CC1)C(F)(F)F | C10H11F3N2
